US05641788
According to the same manner as that described in Reference Example 6, 2-amino-3',4',4,5-tetramethoxybenzophenone hydrochloride was reacted with 2,4-nonanedione to give 4-(3,4-dimethoxyphenyl)-3-hexanoyl-6,7-dimethoxy-2-methylquinoline. This compound was recrystallized from ethanol to give colorless prisms. mp. 123°-125° C.

reactant | 2-amino-3',4',4,5-tetramethoxybenzophenone hydrochloride | Cl.NC1=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C(C(=C1)OC)OC
reactant | 2,4-nonanedione | CC(CC(CCCCC)=O)=O | C9H16O2
product | 4-(3,4-dimethoxyphenyl)-3-hexanoyl-6,7-dimethoxy-2-methylquinoline | COC=1C=C(C=CC1OC)C1=C(C(=NC2=CC(=C(C=C12)OC)OC)C)C(CCCCC)=O | C26H31NO5
